US07253198B2
To a solution of KOH (1.12 g, 20 mmol, 1 equiv) in MeOH (20 ml) at 0° C. was added portionwise 4-chloro-3,5-dinitrobenzoic acid (D23) (4.93 g, 20 mmol, 1 equiv). The resulting mixture was refluxed for 1 h then cooled to room temperature. A second portion of KOH (1.12 g, 20 mmol, 1 equiv) was added and the mixture refluxed for 90 min, cooled to room temperature and diluted with H2O. The aqueous phase was acidified to pH 1 and extracted with AcOEt. The organic phase was dried over MgSO4 and concentrated in vacuo to give crude 4-methoxy-3,5-dinitro-benzoic acid (D24) (4.49 g, 93%) as a light brown solid.

reactant | KOH | 20 mmol, 1.12 g, 1 equiv | [OH-].[K+]
reactant | 4-chloro-3,5-dinitrobenzoic acid | 20 mmol, 4.93 g, 1 equiv | ClC1=C(C=C(C(=O)O)C=C1[N+](=O)[O-])[N+](=O)[O-] | C7H3ClN2O6
reactant | KOH | 20 mmol, 1.12 g, 1 equiv | [OH-].[K+]
reactant | MeOH | 20 ml | CO | CH4O
solvent | H2O | O | H2O
product | 4-methoxy-3,5-dinitro-benzoic acid | 4.49 g, 93% | COC1=C(C=C(C(=O)O)C=C1[N+](=O)[O-])[N+](=O)[O-] | C8H6N2O7
